Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[N:1]1([H:7])[C@:2]([N:4]([C:5](=[O:6])[H:10])[H:9])([H:8])[O:3]1,113.15752312922899
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])=[C:3]([C:4]([H:8])([H:11])[H:12])[C:2]1([H:9])[H:10].[C:5](=[O:6])([H:13])[H:14],105.01751460442101
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]1([H:9])=[C:2]([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]([H:14])[O:6]1.[H:7][H:8],100.945648337863
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([O-:5])[C+:6]([O:7][H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],50.2382709434095
[C:5](=[O:6])=[N:7][H:10].[N:1]([C:2]#[N+:3][O-:4])([H:8])[H:9]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],11.04256913773181
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([O:7][C:6](=[O+:5][C-:4]([H:13])[H:14])[H:15])[H:11])([H:8])([H:9])[H:10],83.57714106606029
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:16])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15],98.3394807000128
[N:1]([C:2]1=[O+:3][C:4]([H:9])([H:10])[C@@:5]12[C-:6]([H:11])[N:7]2[H:13])([H:8])[H:12]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],47.156678120936284
[N:1]([C:2](/[C:3](=[N:4]/[H:11])[H:10])=[N+:7]=[C-:5][O:6][H:12])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],13.269977610485
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6](=[C:7])[H:12])[H:9])[H:8],43.8017750305752
[C:1](/[C:2]([O:3][H:11])=[C:4](\[O:5][C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],43.0152511123365
[N:1](=[C:2])[H:8].[N:3]#[N:4].[O:5]=[C:6]=[C:7]([H:9])[H:10]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],54.03458308507891
[C:1](/[C:2]([O:3][H:11])=[C:4](/[C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],47.961114378408006
[O:1]=[C:2]([N:3]([H:8])[H:11])[N:7]([C:6]([C:5](=[C:4]([H:9])[H:10])[H:12])([H:13])[H:14])[H:15]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],58.8329532987114
[C-:3]#[O+:4].[O:1]([C:2]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],61.7281648444657
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11],48.8271223516777
[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:6]1=[C:7]([H:14])[C:5]1([H:12])[H:13]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],26.72363459534401
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@:6]2(/[C:4](=[N:5]/[H:11])[H:10])[H:12]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12],58.8775844891617
[C:1]([C:2]([C@@:3]([O:4][H:17])([C:5](=[C:6]([H:16])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.935656327298204
[O:1]=[C:2]([C:3]([N:4]([C:5](=[O:6])[H:11])[H:10])([H:8])[H:9])[H:7]>>[C:3](=[N:4][H:10])([H:8])[H:9].[O:1]=[C:2]([C:5](=[O:6])[H:11])[H:7],78.9378265403021
[C:1]([O:2][C:5]([C:3]#[O+:4])=[N-:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],22.086524322637196
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:6](=[C:5])[H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],11.647874114475904
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:16])[H:17].[H:13][H:18]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],32.018320718566684
[O:1]([C@@:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([C:6](=[O:7])[H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],61.14688925582561
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]([C@@:3]1([C:2][H:9])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:10],63.33029135730471
